US07612212B2
To a solution of (S)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-3-methyl-butyric acid (2.5 g, 7.37 mmol) and a few drops of N,N-dimethylformamide in dichloromethane (20 mL) was slowly added oxalyl chloride (1.3 mL, 14.74 mmol) at 0° C. under an atmosphere of dry nitrogen. The mixture was stirred for 15 minutes at 0° C. and 2 hours at room temperature. After removal of the solvent, the residue was dissolved in dichloromethane (20 mL) and to the resulting solution was added 4-amino-3-fluoro-benzonitrile (840 mg, 6.14 mmol), 4-dimethylaminopyridine (150 mg, 1.2 mmol) and pyridine (0.78 mL, 9.21 mmol) at 0° C. The mixture was stirred for 2 hrs at 0° C. and overnight at room temperature. The reaction was quenched with 1 M aqueous citric acid solution and then extracted with dichloromethane (three times). The combined organic extracts were washed with 1 M aqueous citric acid solution, brine, saturated aqueous sodium carbonate, brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography over silica gel gradient eluted from 100% dichloromethane up to 10% methanol/90% dichloromethane over 30 minutes. Concentration of the product containing fractions gave [(S)-1-(4-cyano-2-fluoro-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid 9H-fluoren-9-ylmethyl ester as a white solid (2.15 mg, 77%).

reactant | (S)-2-(9H-fluoren-9-ylmethoxycarbonylamino)-3-methyl-butyric acid | 7.37 mmol, 2.5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)C(C)C | C20H21NO4
reactant | oxalyl chloride | 14.74 mmol, 1.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-3-fluoro-benzonitrile | 6.14 mmol, 840 mg | NC1=C(C=C(C#N)C=C1)F | C7H5FN2
reactant | pyridine | 9.21 mmol, 0.78 mL | N1=CC=CC=C1 | C5H5N
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.2 mmol, 150 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | [(S)-1-(4-cyano-2-fluoro-phenylcarbamoyl)-2-methyl-propyl]-carbamic acid 9H-fluoren-9-ylmethyl ester | 2.15 mg, 77% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](C(C)C)C(NC1=C(C=C(C=C1)C#N)F)=O)=O | C27H24FN3O3
